US07846925B2
Benzofuran-5-carbaldehyde (100 mg, 0.68 mmol) in ether (1 mL) was added to a cold solution (−78° C.) of NBS (158 mg, 1.3 eq) and pyridinium poly(hydrogen fluoride) 70% (0.850 mL) in ether (4 mL) in a polypropylene tube. The reaction was allowed to warm up to room temperature overnight. The reaction mixture was poured into ice water and extracted with ether. The ether phase was washed with aqueous bicarbonate, dried over sodium sulfate, filtrated and evaporated to give 3-bromo-2-fluoro-benzofuran-5-carbaldehyde (141.6 mg). It was purified on reverse phase HPLC (solvents gradient H2O/CH3CN 0.1% TFA) affording the title compound (62 mg, 37%), which was used in the next step.

reactant | Benzofuran-5-carbaldehyde | 0.68 mmol, 100 mg | O1C=CC2=C1C=CC(=C2)C=O | C9H6O2
reactant | NBS | 158 mg, 1.3 eq | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | pyridinium poly(hydrogen fluoride) | 0.850 mL | C1=CC=NC=C1.F
solvent | ether | 1 mL | CCOCC | C4H10O
solvent | ether | 4 mL | CCOCC | C4H10O
product | 3-bromo-2-fluoro-benzofuran-5-carbaldehyde | 141.6 mg | BrC1=C(OC2=C1C=C(C=C2)C=O)F | C9H4BrFO2
